US05552398
b) 1-Azabicyclo[5.4.0]undecan-4-one
A solution of diethyl piperidine-1,2-dipropionate (9.60 g, 0.034 mole) in xylene (100 ml) was added dropwise over 4 h to a flask containing 250 ml of xylene, which was being fed via a continuous extraction apparatus to a stirred, refluxing, suspension of sodium hydride (4.2 g of 80%, 0.14 mole) in xylene (100 ml) containing ethanol (0.5 ml) under nitrogen. The reaction mixture was heated under reflux for a total of 40 h, then cooled in an ice bath and treated with 5M HCl acid (250 ml). The aqueous layer was separated, treated with concentrated HCl acid (30 ml) and heated under reflux for 18 h. The solution was cooled, basified with potassium carbonate and extracted with ether (3×100 ml). The combined extracts were dried (Na2CO3), concentrated in vacuo and the residue distilled in a Kugelr ohr apparatus to give the title compound as a colourless oil (4.6 g, 84%) bp approx. 110° C. at 0.25 mm Hg.

reactant | diethyl piperidine-1,2-dipropionate | 0.034 mole, 9.60 g | N1(C(CCCC1)CCC(=O)OCC)CCC(=O)OCC | C15H27NO4
reactant | sodium hydride | 0.14 mole, 4.2 g | [H-].[Na+]
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | HCl | 5M, 250 ml | Cl | ClH
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-Azabicyclo[5.4.0]undecan-4-one | 4.6 g, 84% | N12CCC(CCC2CCCC1)=O | C10H17NO
